US04148801
2-(4-Chlorophenylsulfonyl)-N-Hydroxyethanimidamide
50 g. (0.23 mole) of 4-chlorophenylsulfonylacetonitrile were dissolved in 1.5 liters of ethanol and 16 g. (0.23 mole) of hydroxylamine HCl in 150 ml. of water was added to this solution, followed by the addition of 14.4 g. (0.12 mole) of Na2CO3 in 150 ml. of water. This reaction mixture was stirred at room temperature overnight. 58 g. crude product were filtered off; this was recrystallized from about 2.5 liters of ethanol to give 40 g. of the product (70% yield).

reactant | 4-chlorophenylsulfonylacetonitrile | 0.23 mole | ClC1=CC=C(C=C1)S(=O)(=O)CC#N | C8H6ClNO2S
reactant | hydroxylamine HCl | 0.23 mole | Cl.NO
reactant | water | O | H2O
reactant | Na2CO3 | 0.12 mole | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ethanol | 1.5 liters | C(C)O | C2H6O
product | 2-(4-Chlorophenylsulfonyl)-N-Hydroxyethanimidamide | 70% yield | ClC1=CC=C(C=C1)S(=O)(=O)CC(NO)=N | C8H9ClN2O3S
